US07202363B2
N-(4-{4-amino-7-[(thien-2-ylsulfonyl)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using N-[4-(7-amino-4-{[(dimethylamino)methylene]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide and 2-thiophenesulfonyl chloride using General Procedure G followed by General Procedure M. 1H NMR (DMSO-d6, 400 MHz) δ 9.70 (br, 1H), 9.49 (s, 1H), 7.97 (d, 1H), 7.80 (m, 1H), 7.70 (d, 1H), 7.58 (d, 1H), 7.47 (s, 1H), 7.40 (m, 1H), 7.37 (s, 1H), 7.34 (m, 2H), 7.17 (s 1H), 7.14 (d, 1H), 7.07 (m, 2H), 5.35 (br, 2H), 4.03 (s, 3H), 3.90 (s, 3H); MS: (M−H)− 588.

reactant | N-[4-(7-amino-4-{[(dimethylamino)methylene]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | NC=1C2=C(C(=NC1)N=CN(C)C)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C27H26N6O2S
reactant | 2-thiophenesulfonyl chloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | N-(4-{4-amino-7-[(thien-2-ylsulfonyl)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)NS(=O)(=O)C=2SC=CC2 | C28H23N5O4S3
